US04451484
Under a dry argon atmosphere, borane-tetrahydrofuran complex (230 ml of a 1.5 M solution in tetrahydrofuran) was added dropwise to a stirred solution of (3-chloro[1,1'-biphenyl]-2-yl)propanoic acid (40.0 g, 0.15 mole) in tetrahydrofuran (250 ml). The reaction mixture was stirred at room temperature for approximately 18 hours. Water (30 ml) was then added to the reaction mixture during a 0.5 hour period. The solvent was removed from the mixture under reduced pressure to yield an oil. The oil was partitioned between methylene chloride and dilute aqueous sodium hydroxide. The organic phase was separated, dried over anhydrous magnesium sulfate, filtered and the filtrate evaporated under reduced pressure to yield 3-(3-chloro[1,1'-biphenyl]-2-yl)-1-propanol as an oil.

reactant | (3-chloro[1,1'-biphenyl]-2-yl)propanoic acid | 0.15 mole, 40.0 g | ClC=1C(=C(C=CC1)C1=CC=CC=C1)C(C(=O)O)C | C15H13ClO2
reactant | Water | 30 ml | O | H2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 3-(3-chloro[1,1'-biphenyl]-2-yl)-1-propanol | ClC=1C(=C(C=CC1)C1=CC=CC=C1)CCCO | C15H15ClO
